Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
shellfish derived / codeine / Vicodin / methocarbamol
 
Attending: ___.
 
Chief Complaint:
Induction of labor for chronic hypetension, wide complex 
tachycardia and non-ischemic cardiomyopathy.
 
Major Surgical or Invasive Procedure:
vaginal delivery

 
History of Present Illness:
This is a ___ y.o. g1p0 who presents for induction of labor at 
___. Pt has a h/o of CHTN but has been off meds since the
beginning of her pregnancy and remains normotensive.  At ___ wk,
she admitted to hospital ___ with non-sustained v-tach and
was started on a Sotalol.  She has done very since and has been
followed by cardiology at ___, then by ___.  Her f/u
echo showed normal EF at ___, but EF at 54% (Low normal) on ___
echo at ___.
She has not had any symptoms of palpitations, racing heartbeat 
or
SOB, but just complains of fatigue.

S/p detailed anesthesia consult 

Fetal status has been stable but EFW has declined now 23%ile,
2730g at 37w, with lagging AC

___:  ___s above
PNL:  A+/abs neg/ RPRNR/ Rubella equivocal/ HbsAg neg/ Hep C 
neg/
HIV neg/ hct 35.0/ plt 223/ glucose 76/ TSH 1.24 
GBS+

Fetal survey:  wnl, posterior placenta (low lying->resolved)

 
Past Medical History:
PGYNHx: no abnormal paps/STDs
POBhx: none

PMH: CHTN- had been on HCTZ, d/c early pregnancy
- Hypothyroidism, stable on levothyroxine 100mcg
- childhood asthma
- h/o narcolepsy
- obesity

Allergies:  Vicodin     
 Codeine Phosphate     
 Methocarbamol 

PSH: - cholecystectomy
- ___ arthroscopy
 
Social History:
___
Family History:
Denies
 
Physical Exam:
On day of discharge:

 
Pertinent Results:
___ 12:53PM BLOOD WBC-11.2* RBC-4.36 Hgb-12.0 Hct-38.0 
MCV-87 MCH-27.5 MCHC-31.6* RDW-14.9 RDWSD-47.8* Plt ___
___ 03:20PM BLOOD WBC-10.4* RBC-4.30 Hgb-11.8 Hct-37.2 
MCV-87 MCH-27.4 MCHC-31.7* RDW-15.0 RDWSD-47.4* Plt ___
___ 03:25PM BLOOD WBC-18.2* RBC-3.98 Hgb-11.0* Hct-33.9* 
MCV-85 MCH-27.6 MCHC-32.4 RDW-14.6 RDWSD-45.5 Plt ___
___ 03:25PM BLOOD ___ PTT-23.7* ___
___ 03:20PM BLOOD Creat-0.6
___ 03:25PM BLOOD ___ 03:20PM BLOOD ALT-19 AST-22
___ 03:20PM BLOOD UricAcd-4.6

EKG ___
Normal sinus rhythm Nonspecific T wave abnormality Abnormal ECG 
When compared with ECG of ___ 14:33, T wave inversion 
now evident in Anterior leads Clinical correlation suggested

EKG ___
Normal sinus rhythm Nonspecific T wave abnormality Abnormal ECG 
When compared with ECG of ___ 14:33, T wave inversion 
now evident in Anterior leads Clinical correlation suggested

EKG ___
Normal sinus rhythm Normal ECG When compared with ECG of 
___, No significant change was found

EKG ___
Normal sinus rhythm Normal ECG When compared with ECG of 
___, No significant change was found
 
Brief Hospital Course:
Ms. ___ is a ___ yo F with a hx of chronic 
hypertension and wide-complex tachycardia and non-ischemic 
cardiomyopathy diagnosed at an outside hospital at ___ 
gestational age who was admitted on ___ for induction of labor 
due to these comorbidities.

After labor induction with cervical ripening agents and pitocin, 
she underwent spontaneous vaginal delivery on ___ which was 
complicated by a post-partum hemorrhage of 1965cc due to lower 
uterine segment atony. She recieved pitocin and misoprostol 
rectally. She had a bakri balloon placed that stayed in place 
with minimal output and was removed without any further bleeding 
after 24 hours. Her hct went from 37.2 prior to delivery to 33.9 
on PPD#0 after delivery (___). Her vitals and exam were 
reassuring and she remained asymptomatic.

Throughout her admission, her blood pressures were monitored 
closely due to her history of chronic hypertension. They 
remained normal to mild range and did not require additional 
anti-hypertensive medication. She had normal serum PIH labs and 
a Protein:Creatinine 0.1 on admission (___).

For her diagnosis of Wide complex tachycardia, non-ischemic 
cardiomyopathy at 23wks she had been on sotalol 80mg BID for 
rate control on admission. She recieved anesthesia, cardiology, 
and maternal fetal medicine consults in the ante and intrapartum 
period. Post-partum she was transitioned to metoprolol tartrate 
12.5mg BID (___) and then to 50mg BID on ___ due to 
multiple episodes of PVCs and trigeminy on telemetry. SHe 
remained asx with stable VS throughout. Her I/Os and daily 
weights were monitored closely. SHe had a baseline EKG on 
admission that was normal and had daily EKGs during her stay. 
Herbaseline echo from ___ was normal with an EF of 54% and one 
was not repeated on this admission. She was transitioned to 
metoprolol succinate 100mg Qday on discharge, per cardiology. 
She was discahrged with a ziopatch x 2weeks and close follow-up 
with her cardiology team. 

From a post-partum standpoint she did well and was discharged on 
PPD#3 in stable condition, asymptomatic from her multiple 
comorbidities, with pain well controlled, and minimal vaginal 
bleeding with close Ob/Gyn follow-up.

 
Medications on Admission:
PNV
- Sotalol 80 mg
- levothyroxine 100mcg
- ASA 81 mg
 
Discharge Medications:
1.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild/Fever NOT relieved 
by Acetaminophen  
2.  Metoprolol Succinate XL 100 mg PO DAILY  
3.  Levothyroxine Sodium 100 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
s/p fullterm vaginal delivery
non-ischemic cardiomyopathy
chronic hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please refer to printed instructions
 
Followup Instructions:
___